US07442694B2
D) 1,4-Diaza-bicyclo[3.2.1]octane dihydrochloride
A mixture of 4-benzyl-1,4-diaza-bicyclo[3.2.1]octane (7.5 g, 37 mmol), 5% palladium on carbon (0.75 g, wet), concentrated HCl (7.5 mL) in EtOH (150 mL) was shaken under hydrogen (50 psi) for a period of 20 h at RT. The product precipitated out of the mixture and water was added in order to dissolve the product. The mixture was filtered through a pad of celite and washed with EtOH. The filtrate was concentrated in vacuo to a solid that was azeotroped with EtOH (3×50 mL). The resulting solid was triturated with hot isopropanol and stirred 18 h at RT. The resulting solid was collected by filtration giving 5.6 g (80%) of the title compound: 1H NMR (d6-DMSO, 400 MHz) δ 4.26 (br s, 1H), 3.72 (d, 1H, J=12 Hz), 3.60-3.53 (m, 1H), 3.48-3.35 (m, 7H), 2.33-2.27 (m, 2H); GCMS m/z 112

reactant | 4-benzyl-1,4-diaza-bicyclo[3.2.1]octane | 37 mmol, 7.5 g | C(C1=CC=CC=C1)N1CCN2CCC1C2 | C13H18N2
reactant | HCl | 7.5 mL | Cl | ClH
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
solvent | EtOH | 150 mL | CCO | C2H6O
product | 1,4-Diaza-bicyclo[3.2.1]octane dihydrochloride | 5.6 g, 80% | Cl.Cl.N12CCNC(CC1)C2 | InChI=1S/C6H12N2.2ClH/c1-3-8-4-2-7-6(1)5-8;;/h6-7H,1-5H2;2*1H
